data/pmechdb/original/mc_train_fold0/raw/train.txt
CC[O:11][Si-:10](C)(C)(C)O.CCCC[N+](CCCC)(CCCC)CCCC.O>>CC[O-:11].C[Si:10](C)(C)O.CCCC[N+](CCCC)(CCCC)CCCC.O 10,11=11
C[S:10]C.C[S:20][Cl:21]>>C[S:20][S+:10](C)C.[Cl-:21] 10=20;20,21=21
COC(=O)[CH:20](C1=CC=CC=C1)[N+:21]#N.C1=CC=C(C=C1)S(=O)(=O)[N-:10]S(=O)(=O)C2=CC=CC=C2>>COC(=O)[CH:20](C1=CC=CC=C1)[N:10](S(=O)(=O)C2=CC=CC=C2)S(=O)(=O)C3=CC=CC=C3.N#[N:21] 10=20;20,21=21
C1=CC=C([CH:11]=[CH:10]1)[N+](=O)[O-].[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C1=C[CH:10]([CH+:11]C(=C1)[N+](=O)[O-])[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21
C1CCC(CC1)CC(=O)C2=CC(=NN2CC[NH2+:21][C:20](=O)[O-:10])C3=CC=CC=C3.C[C+](C)C.C(=O)(C(F)(F)F)[O-]>>C1CCC(CC1)CC(=O)C2=CC(=NN2CC[NH2:21])C3=CC=CC=C3.[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)S(=O)(=O)O)Br.[Br-:10]>>[H:20][Br:10].C1=C(O[C:21](=[CH:22]1)Br)S(=O)(=O)O 10=20;20,21=21,22
C[NH:10]C.[CuH2:20]>>C[NH+:10](C)[CuH2-:20] 10=20,
[H:20][O:21][C:22](=[O:23])C.C1CCN(C(C1)C(=O)O)C(CCC[N+](=O)[O-])[OH:10]>>[H:20][OH+:10]C(CCC[N+](=O)[O-])N1CCCCC1C(=O)O.C[C:22](=[O:21])[O-:23] 10=20;22,23=23;20,21=21,22
C[C:20](=[OH+:21])Cl.[OH2:10]>>C[C:20]([OH2+:10])([OH:21])Cl 10=20;20,21=21
C[C:10](=[C:11](C(Br)Br)[O-:12])Br.[Br:20][Br:21]>>C[C:10]([C:11](=[O:12])C(Br)Br)(Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
[CH+:20]([OH:10])S>>[CH:20](=[OH+:10])S 10=20,
CCO[C:20](=[O:21])C(=CI)C.[OH-:10].CCO.C(=O)=O.[K+]>>CCO[C:20](C(=CI)C)([OH:10])[O-:21].CCO.C(=O)=O.[K+] 10=20;20,21=21
C1=CC=C(C=C1)C(=O)N[NH2:10].C1=CC(=CC=C1[CH:20]=[O:21])Br.C(=O)(C(F)(F)F)O>>C1=CC=C(C=C1)C(=O)N[NH2+:10][CH:20](C2=CC=C(C=C2)Br)[O-:21].C(=O)(C(F)(F)F)O 10=20;20,21=21
[H:20][CH:21](C#N)C(C)(C)O.[OH-:10]>>[H:20][OH:10].CC(C)([CH-:21]C#N)O 10=20;20,21=21
C[CH:20]=[O:21].[CH2-:10][N+](=O)[O-]>>C[CH:20]([CH2:10][N+](=O)[O-])[O-:21] 10=20;20,21=21
CC[O-:10].C[C:20](=[O:21])OC(=O)C=C>>CC[O:10][C:20](C)([O-:21])OC(=O)C=C 10=20;20,21=21
[H:20][Cl:21].C[C:11]1=[CH:10]CCC1(C)C2=CC=CC=C2>>[H:20][CH:10]1CCC([C+:11]1C)(C)C2=CC=CC=C2.[Cl-:21] 10,11=10,20;20,21=21
CC(C)CC1CCC2C1(CCC3C2CCC4=CC(=[O+:11][Al-:10](OC(C)C)(OC(C)C)OC(C)C)CCC34C)C.CC(C)[O-]>>CC(C)CC1CCC2C1(CCC3C2CCC4=CC(=[O:11])CCC34C)C.CC(C)O[Al:10](OC(C)C)OC(C)C.CC(C)[O-] 10,11=11
C[NH+:11]=[S:10](C)O>>C[NH:11][S+:10](C)O 10,11=11
CC[C:20](=[O:21])C.C[CH:10]=[C:11](C)[O-:12]>>CC[C:20](C)([CH:10](C)[C:11](=[O:12])C)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].C[O:10]CNC(CC1=CC=C(C=C1)O)C(=O)O.CO.[Cl-]>>[H:20][O+:10](C)CNC(CC1=CC=C(C=C1)O)C(=O)O.[OH2:21].CO.[Cl-] 10=20;20,21=21
[CH:20]([NH2:10])(O)[Br:21].[Cl-]>>[CH:20](=[NH2+:10])O.[Br-:21].[Cl-] 10=20;20,21=21
[H:20][C:21]1(C(=CC(=C([C:22]1=[OH+:23])CC=C(C)C)O)CCCCC)CC=C(C)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CCCCCC1=CC(=C([C:22](=[C:21]1CC=C(C)C)[OH:23])CC=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CC(C)CC(C(=O)NCC1=CC=CC=C1)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C)CC(C(=O)NCC1=CC=CC=C1)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
C[Si-:10](C)(C)([OH2+])[Cl:11]>>C[Si:10](C)(C)[OH2+].[Cl-:11] 10,11=11
[H:20][CH:21](CCC)[C:22](=[N+:23]1CCCC1C2=NN=NN2)C3=C(C=CC(=C3)Br)O.C(=O)(C(F)(F)F)[O-:10].C1=CC(=CC=C1C=O)[N+](=O)[O-].O>>[H:20][O:10]C(=O)C(F)(F)F.CCC[CH:21]=[C:22](C1=C(C=CC(=C1)Br)O)[N:23]2CCCC2C3=NN=NN3.C1=CC(=CC=C1C=O)[N+](=O)[O-].O 10=20;22,23=23;20,21=21,22
C[CH:20]([O:10]C)[O+:21](C)[Si](C)(C)C>>C[CH:20]=[O+:10]C.C[O:21][Si](C)(C)C 10=20;20,21=21
[H:20][NH+:21](C1=CC(=CC=C1)[N+](=O)[O-])C(C)(CCC(=O)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC(=O)CCC(C)([NH:21]C1=CC(=CC=C1)[N+](=O)[O-])O 10=20;20,21=21
CCOC(=O)[C:20]([C:21]1=[N+](N=C2N1CCC2)C3=C(C(=C(C(=C3F)F)F)F)F)(C(CC(=O)C4=C(C=CC=C4)F)C5=CC6=C(C=C5)OCO6)[O-:10].[B-](F)(F)(F)F.CC[NH+](CC)CC>>CCOC(=O)[C:20](=[O:10])C(CC(=O)C1=C(C=CC=C1)F)C2=CC3=C(C=C2)OCO3.C1CC2=N[N+](=[C-:21]N2C1)C3=C(C(=C(C(=C3F)F)F)F)F.[B-](F)(F)(F)F.CC[NH+](CC)CC 10=20;20,21=21
C[OH:10].[CH2:20]=[O+:21]CC1=CC=CC=C1.[Cl-]>>C[OH+:10][CH2:20][O:21]CC1=CC=CC=C1.[Cl-] 10=20;20,21=21
CC[Si](CC)(CC)OC1(CCCC1C[CH:20]([O:10]C)[O+:21](C)[Sn-](Cl)(Cl)(Cl)Cl)C2=CC3CCCC3C2>>CC[Si](CC)(CC)OC1(CCCC1C[CH:20]=[O+:10]C)C2=CC3CCCC3C2.C[O:21][Sn-](Cl)(Cl)(Cl)Cl 10=20;20,21=21
CCO[C:20](C(C1=CC=CC=C1)O)([OH2+:21])[OH:10].CCO.OS(=O)(=O)[O-]>>CCO[C:20](=[OH+:10])C(C1=CC=CC=C1)O.[OH2:21].CCO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(CCC)CCC.[H:10][Na:11]>>CCCC(CCC)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
C[N:14]1[CH:10]=[CH:11][C:12]2=[C:13]1CCCC2.C[N+:21](=[CH:20]Cl)C.[O-]P(=O)(Cl)Cl>>C[N+:14]1=[C:13]2CCCC[C:12]2=[CH:11][CH:10]1[CH:20]([N:21](C)C)Cl.[O-]P(=O)(Cl)Cl 10,11=10,20;20,21=21;12,13=11,12;14=13
CC[N-:10]CC.[AlH3:20]>>CC[N:10](CC)[AlH3-:20] 10=20,
[H:20][C:21]1(C(=CC(=C[C:22]1=[O:23])CCCCC)O)C(C=C(C)CCC=C(C)C)O.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCCCCC1=C[C:22](=[C:21](C(=C1)O)C(C=C(C)CCC=C(C)C)O)[O-:23] 10=20;22,23=23;20,21=21,22
